US08003583B2
Step B—Preparation of N-2-naphthyl-1,2,3,4-tetrahydroquinolin-6-amine
A solution of 7.00 grams of N-2-naphthylquinolin-6-amine from above in acetic acid (60 mL) and ethyl acetate (10 mL) containing 0.55 grams of platinum(IV) oxide was hydrogenated at 45 psi for 6.0 hours on a Parr low-pressure hydrogenator. The solution was filtered through diatomaceous earth; concentrated in vacuo; and neutralized with 3N aqueous sodium hydroxide. The aqueous phase was diluted with water and extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with brine; dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield 5.5 grams solid. The solid was chromatographed on silica gel, eluting with hexane/ethyl acetate gradient to afford 3.5 grams of the desired product as a yellow solid. 1H NMR (CDCl3/D2O) δ 6.4-7.8 (m, 10H), 3.1-3.5 (m, 2H), 2.6-2.9 (m, 2H), 1.95 (p, 2H).

reactant | N-2-naphthylquinolin-6-amine | 7.00 grams | C1=C(C=CC2=CC=CC=C12)NC=1C=C2C=CC=NC2=CC1 | C19H14N2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 0.55 grams | [Pt](=O)=O
product | N-2-naphthyl-1,2,3,4-tetrahydroquinolin-6-amine | 5.5 grams | C1=C(C=CC2=CC=CC=C12)NC=1C=C2CCCNC2=CC1 | C19H18N2
